US05686419
Diphenyl amino(4-amidinophenyl)methanephosphonate dihydrochloride [(4-AmPhGly)P (OPh)2 ].
A sample of 1.8 g of diphenyl N-benzyloxycarbonylamino(4-amidinophenyl)methanephosphonate hydrochloride was dissolved in 150 ml of 2N HCl methanol solution and after addition of 5% Pd/C catalyst, the solution was stirred under an atmosphere of hydrogen until the theoretical amount of hydrogen was consumed. The catalyst was removed by filtration and after evaporation of the methanol, the residue was crystallized from ethanol-ether. In several experiments, the yields were 60-80%; mp. 213°-215° C.; Anal. Calcd. for C20 H22N3ClP.1/2 H2O: C,51.85; H, 4.97; N, 9.08; Cl, 15.34. Found: C, 51.73; H, 5.02; N, 9.10; Cl, 15.36.

reactant | diphenyl N-benzyloxycarbonylamino(4-amidinophenyl)methanephosphonate hydrochloride | 1.8 g | Cl.C(C1=CC=CC=C1)OC(=O)NC(P(OC1=CC=CC=C1)(=O)OC1=CC=CC=C1)C1=CC=C(C=C1)C(N)=N
reactant | hydrogen | [H][H] | H2
solvent | HCl methanol | 2N, 150 ml | CO.Cl
catalyst | Pd/C | [Pd] | Pd
product | Diphenyl amino(4-amidinophenyl)methanephosphonate dihydrochloride | Cl.Cl.NC(P(OC1=CC=CC=C1)(=O)OC1=CC=CC=C1)C1=CC=C(C=C1)C(N)=N | InChI=1S/C20H20N3O3P.2ClH/c21-19(22)15-11-13-16(14-12-15)20(23)27(24,25-17-7-3-1-4-8-17)26-18-9-5-2-6-10-18;;/h1-14,20H,23H2,(H3,21,22);2*1H
